US09238658B2
In a flask was placed ethyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-4-carboxylate (83.6 mg, 0.2 mmol) and EtOH (2 mL) was added. Then, 40 wt % CH3NH2(aq) (10 mL) was added and the resulting mixture was heated to 38-40° C. for 4 h. The resulting mixture was concentrated to remove EtOH and then partitioned in CH2Cl2/H2O (30 mL/30 mL). The aqueous layer was extracted with CH2Cl2 (30 mL). The combined organic layer was dried (Na2SO4) and filtered. The solvent was removed by roto-evaporator and the resulting residue re-solidified from CH2Cl2/hexane to yield 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)-N-methylthiazole-4-carboxamide as a white solid.

reactant | ethyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-4-carboxylate | 0.2 mmol, 83.6 mg | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC=C(N1)C(=O)OCC | C20H23FN4O3S
reactant | CH3NH2 | 10 mL | CN | CH5N
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)-N-methylthiazole-4-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC=C(N1)C(=O)NC | C19H22FN5O2S
